US07230011B2
1-Propyl-7-methyl-3-(1-methylpiperdin-4-yl)-5-hydroxy-1H-indole
By a method similar to PREPARATION 8, using 1-propyl-5-methoxy-7-methyl-3-(1-methylpiperdin-4-yl)-1H-indole (1.24 g) and pyridine hydrochloride (25 g) to afford 1.03 g (87%) of the title compound: mass spectrum (ion spray): m/z=287 (M+1); Calculated for C18H26N2O.0.4 H2O: C, 73.63; H, 9.34; N, 9.23. Found: C, 73.70; H, 9.34; N, 9.33.

reactant | 1-propyl-5-methoxy-7-methyl-3-(1-methylpiperdin-4-yl)-1H-indole | 1.24 g | C(CC)N1C=C(C2=CC(=CC(=C12)C)OC)C1CCN(CC1)C | C19H28N2O
reactant | pyridine hydrochloride | 25 g | Cl.N1=CC=CC=C1
product | 1-Propyl-7-methyl-3-(1-methylpiperdin-4-yl)-5-hydroxy-1H-indole | 1.03 g, 87% | C(CC)N1C=C(C2=CC(=CC(=C12)C)O)C1CCN(CC1)C | C18H26N2O
